US07626039B2
methyl 4-(2-bromoacetyl)phenylcarbamate: 4-Aminoacetophenone was suspended in a 1:1 mixture of dioxane and water (150 mL), and NaOH (4.4 g, 0.11 mol) was added. The mixture was stirred until the NaOH dissolved, then cooled to 0° C. prior to dropwise addition of methylchloroformate (8.5 mL, 0.11 mol). The resulting mixture was stirred at 0° C. for an additional 10 min then at rt for 2 h, followed by standing overnight. The solvent was removed by evaporation and the residual solids were partitioned between EtOAc and water. The layers were separated and the aqueous was reextracted 2× with EtOAc. The combined organic extracts were dried over MgSO4, filtered and evaporated to yield a tan powder. The crude product was suspended in EtOAc, washed 3× with 1N HCl to remove unreacted aniline, then washed with brine, dried over MgSO4, filtered and evaporated to provide methyl-4-acetylphenylcarbamate as an orange/tan solid (11.2 g, 53%). A portion of this material (3 g, 15.53 mmol) was suspended in CHCl3 (60 mL) and bromine (0.960 mL, 18.63 mmol) was added in small portions. About halfway through the addition, most of the starting material had dissolved in the dark orange reaction mixture. At this point, the mixture quickly decolorized with the formation of a tan precipitate. The remaining bromine was added over ˜5 min, then the mixture was stirred at rt. After ˜30 min, the solid product was collected by filtration and washed with CHCl3 and air-dried overnight to provide the bromoketone (3.25 g, 77%) which was used without further purification. 1HNMR (500 MHz, DMSO-d6) δ: 10.14 (1H, s), 7.95 (2H, d, J=8.8 Hz), 7.59 (2H, d, J=8.8 Hz), 4.83 (2H, s), 3.57-3.83 (3H, m).

reactant | methyl 4-(2-bromoacetyl)phenylcarbamate | BrCC(=O)C1=CC=C(C=C1)NC(OC)=O | C10H10BrNO3
reactant | 4-Aminoacetophenone | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | NaOH | 0.11 mol, 4.4 g | [OH-].[Na+]
reactant | methylchloroformate | 0.11 mol, 8.5 mL | COC(=O)Cl | C2H3ClO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 150 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | methyl-4-acetylphenylcarbamate | 11.2 g, 53% | COC(NC1=CC=C(C=C1)C(C)=O)=O | C10H11NO3
